US04402960
A solution of 2.164 g of 3-chloroperbenzoic acid (80%) in 150 ml of dichloromethane is dropped to a solution of 4.46 g of 4,5-bis(4-methoxyphenyl)-2-(2-acetoamidophenylthio)imidazole in 100 ml of dichloromethane. The mixture is stirred for 3 hours at room temperature, the solution washed with sodium bicarbonate solution, dried over sodium sulfate, and concentrated to dryness under vacuum. The residue is chromatographed on 150 g of silica gel with acetone/hexane, thus obtaining 3.96 g of 4,5-bis(4-methoxyphenyl)-2-(2-acetamidophenylsulfinyl)imidazole as an amorphous foam.

reactant | 3-chloroperbenzoic acid | 2.164 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4,5-bis(4-methoxyphenyl)-2-(2-acetoamidophenylthio)imidazole | 4.46 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SC1=C(C=CC=C1)NC(C)=O | C25H23N3O3S
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4,5-bis(4-methoxyphenyl)-2-(2-acetamidophenylsulfinyl)imidazole | 3.96 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)S(=O)C1=C(C=CC=C1)NC(C)=O | C25H23N3O4S
